US07230020B2
Reaction of 4-chloro-2-methyl-benzothiazol-5-ylamine (50 mg, 0.25 mmol) in THF (1.5 mL) with m-anisoyl chloride (41 μL, 0.30 mmol) in presence of triethylamine (42 μL, 0.30 mmol) according to method A gave N-(4-chloro-2-methyl-benzothiazol-5-yl)-3-methoxy-benzamide (70 mg, 0.21 mmol, 84% yield) as a orange powder after crystallisation in hexane/DCM.

reactant | 4-chloro-2-methyl-benzothiazol-5-ylamine | 0.25 mmol, 50 mg | ClC1=C(C=CC2=C1N=C(S2)C)N | C8H7ClN2S
reactant | m-anisoyl chloride | 0.30 mmol, 41 μL | C(C1=CC(=CC=C1)OC)(=O)Cl | C8H7ClO2
reactant | triethylamine | 0.30 mmol, 42 μL | C(C)N(CC)CC | C6H15N
solvent | THF | 1.5 mL | C1CCOC1 | C4H8O
product | N-(4-chloro-2-methyl-benzothiazol-5-yl)-3-methoxy-benzamide | 0.21 mmol, 70 mg, 84% yield | ClC1=C(C=CC2=C1N=C(S2)C)NC(C2=CC(=CC=C2)OC)=O | C16H13ClN2O2S
